US08536179B2
To 6-chloro-2-((dimethylamino)methyl)-1-isopropyl-3-methyl-1H-indole-4-carboxylic acid hydrochloride salt (0.42 g, 1.216 mmol), 3-(aminomethyl)-6-methyl-4-propylpyridin-2(1H)-one (0.22 g, 1.221 mmol), HOAt (0.17 g, 1.249 mmol) was added Dichloromethane (16 mL), N,N-Dimethylformamide (4 mL) and N-methylmorpholine (135 μL, 1.228 mmol). The mixture was stirred and EDC free base (0.20 g, 1.288 mmol) was added. After stirring for 2 hr LCMS showed that the reaction was complete. The reaction was evaporated to dryness under vacuum and purified by silica gel chromatography (Analogix, SF25-60 g, 0 to 8% (5% NH4OH in MeOH) in CH2Cl2). The pure fractions were combined, evaporated to dryness then taken up in 20% EtOAc in hexanes. Scratching crystallized out the product which was filtered and washed with hexanes to give the product 6-chloro-2-((dimethylamino)methyl)-1-isopropyl-3-methyl-N-((6-methyl-2-oxo-4-propyl-1,2-dihydropyridin-3-yl)methyl)-1H-indole-4-carboxamide (362 mg, 0.769 mmol, 63.2% yield) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ=11.49 (s, 1H), 8.24 (t, J=4.9 Hz, 1H), 7.61 (d, J=1.8 Hz, 1H), 6.83 (d, J=1.8 Hz, 1H), 5.89 (s, 1H), 4.91 (quin, J=7.0 Hz, 1H), 4.31 (d, J=5.1 Hz, 2H), 3.47 (s, 2H), 2.52 (2H under DMSO), 2.14 (s, 6H), 2.12 (s, 3H), 2.10 (s, 3H), 1.62-1.53 (m, 2H), 1.51 (d, J=7.1 Hz, 6H), 0.94 (t, J=7.3 Hz, 3H). MS (ES)+m/e 471.3 [M+H]+.

reactant | 6-chloro-2-((dimethylamino)methyl)-1-isopropyl-3-methyl-1H-indole-4-carboxylic acid hydrochloride salt | 1.216 mmol, 0.42 g | Cl.ClC=1C=C(C=2C(=C(N(C2C1)C(C)C)CN(C)C)C)C(=O)O
reactant | 3-(aminomethyl)-6-methyl-4-propylpyridin-2(1H)-one | 1.221 mmol, 0.22 g | NCC=1C(NC(=CC1CCC)C)=O | C10H16N2O
reactant | HOAt | 1.249 mmol, 0.17 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | N-methylmorpholine | 1.228 mmol, 135 μL | CN1CCOCC1 | C5H11NO
reactant | EDC | 1.288 mmol, 0.20 g
solvent | N,N-Dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | Dichloromethane | 16 mL | ClCCl | CH2Cl2
product | 6-chloro-2-((dimethylamino)methyl)-1-isopropyl-3-methyl-N-((6-methyl-2-oxo-4-propyl-1,2-dihydropyridin-3-yl)methyl)-1H-indole-4-carboxamide | 0.769 mmol, 362 mg, 63.2% yield | ClC=1C=C(C=2C(=C(N(C2C1)C(C)C)CN(C)C)C)C(=O)NCC=1C(NC(=CC1CCC)C)=O | C26H35ClN4O2
